US03987051
5-Benzoyl-1-(2-furanyl)methyl-4-n-butylamino-6-phenyl-1H-pyrazolo[3,4-b]pyridine is treated with concentrated sulfuric acid according to the procedure of Example 4 to obtain 5-benzoyl-4-n-butylamino-6-phenyl-1H-pyrazolo[3,4-b]pyridine.

reactant | 5-Benzoyl-1-(2-furanyl)methyl-4-n-butylamino-6-phenyl-1H-pyrazolo[3,4-b]pyridine | C(C1=CC=CC=C1)(=O)C=1C(=C2C(=NC1C1=CC=CC=C1)N(N=C2)CC=2OC=CC2)NCCCC | C28H26N4O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 5-benzoyl-4-n-butylamino-6-phenyl-1H-pyrazolo[3,4-b]pyridine | C(C1=CC=CC=C1)(=O)C=1C(=C2C(=NC1C1=CC=CC=C1)NN=C2)NCCCC | C23H22N4O
